US09371319B2
Preparation 141: 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1-(5-methylpyridin-2-yl)-1H-pyrrolo[3,2-c]pyridine
6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 84 mg 0.303 mmole) and 2-bromo-5-methylpyridine (78 mg, 0.45 mmole) were dissolved in DMA (2.1 ml) and potassium carbonate (60 mg, 0.42 mmole) and copper(I) iodide (12 mg, 0.066 mmole) were added. The reaction was placed under argon and heated by microwave at 210° C. for 60 minutes. Further 2-bromo-5-methylpyridine (49 mg) and potassium carbonate (40 mg) were added and the reaction again heated at 210° C. under microwave irradiation for 60 minutes. The reaction was taken up in ethyl acetate (30 mL) and the solution washed with water (3×10 mL) and brine. The aqueous was filtered through Celite and backwashed with ethyl acetate (10 mL). The combined organic layers were dried and concentrated in vacuo. The residue was purified using preparative TLC eluting with ethyl acetate to afford the title compound 52 mg (46%). 1H-NMR (CDCl3, 500 MHz): 2.48 (s, 3H), 3.88 (s, 3H), 6.70 (d, J=0.95 Hz, 1H), 7.09 (d, J=7.88 Hz, 1H), 7.24 (m, 1H), 7.25 (s, 1H), 7.44 (t, J=0.95 Hz, 1H), 7.66 (m, 1H), 8.53 (m, 1H), 8.65 (d, J=0.95 Hz, 1H).

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.303 mmole, 84 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | 2-bromo-5-methylpyridine | 0.45 mmole, 78 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | potassium carbonate | 0.42 mmole, 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-methylpyridine | 49 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 2.1 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.066 mmole, 12 mg | [Cu]I
product | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1-(5-methylpyridin-2-yl)-1H-pyrrolo[3,2-c]pyridine | 52 mg, 46% | BrC1=CC2=C(C=N1)C=C(N2C2=NC=C(C=C2)C)C=2C=NN(C2)C | C17H14BrN5
